US07163937B2
Synthesis of N-((S)-1-((3R,4S)-1-isopropyl-3-(isopropylsulfonylmethyl)piperidin-4-yl)-2-oxopyrrolidin-3-yl)-3-(trifluoromethyl)benzamide
A sample of N-((S)-1-((3R,4S)-3-(isopropylsulfonylmethyl)piperidin-4-yl)-2-oxopyrrolidin-3-yl)-3-(trifluoromethyl)benzamide (0.05 g) was dissolved in 1,2-dichloroethane (3 mL) prior to the addition of acetone (0.38 mL, 0.525 mMol). After stirring at rt for 1 h, sodium triacetoxyborohydride (0.445 g, 0.21 mMol) was added to the reaction. Stirring was continued for 2 h when the reaction was quenched with saturated NaHCO3. Partitioned between EtOAc and water. Organic layer was washed with brine and dried (MgSO4). Filtered, concentrated and chromatographed. The desired product, N-((S)-1-((3R,4S)-1-isopropyl-3-(isopropylsulfonylmethyl)piperidin-4-yl)-2-oxopyrrolidin-3-yl)-3-(trifluoromethyl)benzamide (0.0086 g, yield=16%) was obtained as a white solid. MS found: (M+H)+=518.2

reactant | N-((S)-1-((3R,4S)-3-(isopropylsulfonylmethyl)piperidin-4-yl)-2-oxopyrrolidin-3-yl)-3-(trifluoromethyl)benzamide | 0.05 g | C(C)(C)S(=O)(=O)C[C@@H]1CNCC[C@@H]1N1C([C@H](CC1)NC(C1=CC(=CC=C1)C(F)(F)F)=O)=O | C21H28F3N3O4S
reactant | acetone | 0.525 mMol, 0.38 mL | CC(=O)C | C3H6O
reactant | sodium triacetoxyborohydride | 0.21 mMol, 0.445 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 3 mL | ClCCCl | C2H4Cl2
product | N-((S)-1-((3R,4S)-1-isopropyl-3-(isopropylsulfonylmethyl)piperidin-4-yl)-2-oxopyrrolidin-3-yl)-3-(trifluoromethyl)benzamide | 0.0086 g, yield=16% | C(C)(C)N1C[C@H]([C@H](CC1)N1C([C@H](CC1)NC(C1=CC(=CC=C1)C(F)(F)F)=O)=O)CS(=O)(=O)C(C)C | C24H34F3N3O4S
